US07067517B2
Methyl-phenyl-carbamic acid [1,2,3]triazol-1-yl ester
The title compound was prepared from 1-hydroxy-1,2,3-triazole and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to flash chromatography (Quad flash 25, EtOAc-heptane) (80%, oil). HPLC-MS m/z=219.1 (M+1), Rt: 2.50 min. Mp 105–106° C.

reactant | 1-hydroxy-1,2,3-triazole | ON1N=NC=C1 | C2H3N3O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | Methyl-phenyl-carbamic acid [1,2,3]triazol-1-yl ester | N1(N=NC=C1)OC(N(C1=CC=CC=C1)C)=O | C10H10N4O2
